US07807676B2
Preparation of intermediate 2-(7-(5-(3-hydroxypentan-3-yl)-1H-pyrazol-3-yl)-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetic acid
To a flask containing methyl 2-(7-(5-(3-hydroxypentan-3-yl)-1H-pyrazol-3-yl)-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetate (0.066 g, 0.171 mmol) was added MeOH (1 mL) and Water (1 mL). To the mixture was added potassium carbonate (0.118 g, 0.854 mmol). After 1 h, the mixture was made acidic (pH=1) by adding 1N HCl. No precipitate formed, so the solvent was removed under reduced pressure. The crude mixture containing 2-(7-(5-(3-hydroxypentan-3-yl)-1H-pyrazol-3-yl)-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetic acid was carried forward to the next step with no further purification. LCMS: m/e 373.22 (M+H)+, ret time 1.723 min (method 4).

reactant | methyl 2-(7-(5-(3-hydroxypentan-3-yl)-1H-pyrazol-3-yl)-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetate | 0.171 mmol, 0.066 g | OC(CC)(CC)C1=CC(=NN1)C=1N=CC(=C2C1NC=C2C(C(=O)OC)=O)OC | C19H22N4O5
reactant | MeOH | 1 mL | CO | CH4O
reactant | potassium carbonate | 0.854 mmol, 0.118 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 1N | Cl | ClH
solvent | Water | 1 mL | O | H2O
product | 2-(7-(5-(3-hydroxypentan-3-yl)-1H-pyrazol-3-yl)-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetic acid | OC(CC)(CC)C1=CC(=NN1)C=1N=CC(=C2C1NC=C2C(C(=O)O)=O)OC | C18H20N4O5
